US04022607
5-methyl-2-methylthio-4-phenyl-thiazole
To 14.9 g. of 2-mercapto-5-methyl-4-phenyl-thiazole is added 60 ml. of water and 19.5 ml. of a 15% aqueous solution of sodium hydroxide and the mixture is stirred until most of the material dissolves. The stirred mixture is then treated with methyl iodide (5 ml.) in ethanol (20 ml.). After two hours, the reaction is complete (tlc) and the reaction mixture is extracted with ether. The combined ether extracts are washed successively with a 10% solution of sodium carbonate and brine, dried and concentrated in vacuo to an oil, b.p. 138°-140° C. at 0.04 mm Hg.

reactant | 2-mercapto-5-methyl-4-phenyl-thiazole | SC=1SC(=C(N1)C1=CC=CC=C1)C | C10H9NS2
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl iodide | 5 ml | CI | CH3I
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-methyl-2-methylthio-4-phenyl-thiazole | CC1=C(N=C(S1)SC)C1=CC=CC=C1 | C11H11NS2
